**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Aluminum Electrolytic Capacitors
* Matchcode:              WCAP-AWG8
* Library Type:           Pspice
* Version:                rev25a
* Created/modified by:    Ella
* Date and Time:          9/3/2025
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt AWG8_862011291005_8R2mF 1 2
Rser 1 3 0.00874
Lser 2 4 0.000000032
C1 3 4 0.0082
Rpar 3 4 70000
.ends AWG8_862011291005_8R2mF
*******
